US06821967B2
a. 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide
Prepared analogously to Example 1 from 4-fluoro-benzylamine and 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride.

reactant | 4-fluoro-benzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride | BrCCCCC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)Cl | C18H16BrClO
product | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCBr)C=C1 | C25H23BrFNO
